US07410971B2
[4-(4-t-Butylcyclohexyl)-3-(4-butylpiperazine-1-yl)phenyl]methanol
Lithium aluminum hydride (29 mg, 0.764 mmol) was suspended in anhydrous tetrahydrofuran (5 mL). To the suspension was added a solution of 4-(4-t-butylcyclohexyl)-3-(4-butylpiperazine-1-yl)benzoic acid methyl ester (308 mg, 0.743 mmol) in anhydrous tetrahydrofuran (5 mL) at room temperature under a nitrogen atmosphere, followed by stirring for 55 minutes. Sodium fluoride (262 mg) was added to the reaction mixture, and water (0.11 mL) was gradually added while blowing nitrogen. After stirring for 1 hour and 35 minutes, insoluble materials were filtered off and the filtrate was concentrated under reduced pressure. The obtained residue was dissolved in ethyl acetate, and anhydrous sodium sulfate was added for drying. The desiccant was filtered off and the filtrate was concentrated under reduced pressure to give 295 mg of a crude product of the title compound as a colorless oil.

reactant | Lithium aluminum hydride | 0.764 mmol, 29 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 4-(4-t-butylcyclohexyl)-3-(4-butylpiperazine-1-yl)benzoic acid methyl ester | 0.743 mmol, 308 mg | COC(C1=CC(=C(C=C1)C1CCC(CC1)C(C)(C)C)N1CCN(CC1)CCCC)=O | C26H42N2O2
reactant | Sodium fluoride | 262 mg | [F-].[Na+]
reactant | water | 0.11 mL | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | [4-(4-t-Butylcyclohexyl)-3-(4-butylpiperazine-1-yl)phenyl]methanol | 295 mg | C(C)(C)(C)C1CCC(CC1)C1=C(C=C(C=C1)CO)N1CCN(CC1)CCCC | C25H42N2O
